### PR TITLE
feat(Analysis/Complex): the equality case of the triangle inequality

### PR DESCRIPTION
**Pull request by mkaratarakis**
The equality case of the triangle inequality for a finite sum

Part of the Perron–Frobenius formalization (with @or4nge19).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

cc @or4nge19 for review

### CODE REVIEW

File: Mathlib/Analysis/Complex/Arg.lean [hunk 1]
```diff
@@ -61,4 +65,26 @@ theorem norm_add_eq (h : x.arg = y.arg) : ‖x + y‖ = ‖x‖ + ‖y‖ :=
 theorem norm_sub_eq (h : x.arg = y.arg) : ‖x - y‖ = ‖‖x‖ - ‖y‖‖ :=
   (sameRay_of_arg_eq h).norm_sub
 
+variable {z w : ℂ} {c lam : ℝ}
+
+/-- `z / ‖z‖` agrees with the real scalar action of `‖z‖⁻¹`. -/
+lemma div_norm_eq_inv_norm_smul (hz : z ≠ 0) : z / (‖z‖ : ℂ) = (‖z‖)⁻¹ • z := by
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/Arg.lean]: - Can `‖z‖` be replaced by any real numbers?
 - Can we remove `z ≠ 0` because junk values also agree?

File: Mathlib/Analysis/Complex/Norm.lean [hunk 2]
```diff
@@ -386,4 +386,30 @@ lemma normSq_ofReal_sub_I_mul_sqrt_one_sub {x : ℝ} (hx : ‖x‖ ≤ 1) :
...
+  exact Complex.ext (by simp [hre]) ((sq_eq_zero_iff).mp h_im)
+
+lemma eq_coe_re_of_mul_eq_norm_mul {w : ℂ} (h : re (z * star w) = ‖z‖ * ‖w‖) :
+    z * star w = ↑(re (z * star w)) := by
+  have hnorm : ‖z * star w‖ = ‖z‖ * ‖w‖ := by rw [Complex.norm_mul, star_def, norm_conj]
+  exact eq_coe_re_of_norm_eq (hnorm.trans h.symm)
+
+/-- For `z ≠ 0`, `star z / ‖z‖` multiplies `z` to `‖z‖`. -/
+lemma unit_of_norm_div_star (hz : z ≠ 0) :
+    let u := star z / (‖z‖ : ℂ); z * u = (‖z‖ : ℂ) := by
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/Norm.lean]: - why not inline `u` into the expression?
 - is `z ≠ 0` necessary?
 - I am not sure what this name means and how it correlates with the statement

File: Mathlib/Analysis/Complex/TriangleEquality.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+  real multiples of a common unit phase.
+* `Complex.sameRay_of_triangle_eq`: each summand is `SameRay` to the sum.
+* `Complex.aligned_of_triangle_eq`: each nonzero summand has the same phase as the sum.
+
+## References
+
+See `Complex.norm_add_eq_iff` in `Mathlib/Analysis/Complex/Arg.lean` for the two-vector case.
+-/
+
+@[expose] public section
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/TriangleEquality.lean]: No need for `@[expose]` if there is no new definition
```suggestion
public section
```

**Review by wwylele — COMMENTED** [review]
(not a full review. Just some drive-by comments)

File: Mathlib/Analysis/CStarAlgebra/PerronFrobenius.lean
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/PerronFrobenius.lean:1]: why is this in the CStarAlgebra folder?

File: Mathlib/Analysis/CStarAlgebra/PerronFrobenius.lean [hunk 4]
```diff
@@ -0,0 +1,378 @@
...
+
+@[expose] public section
+
+namespace Complex
+
+
+variable {z : ℂ}
+
+/-- The norm of a real number embedded in the complex numbers is its absolute value. -/
+lemma norm_ofReal (r : ℝ) : ‖(r : ℂ)‖ = |r| := by simp
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/PerronFrobenius.lean]: do you really need this? this is just [Complex.norm_real](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/Norm.html#Complex.norm_real) and [Real.norm_eq_abs](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Real.html#Real.norm_eq_abs)

File: Mathlib/Analysis/Complex/TriangleEquality.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/TriangleEquality.lean:1]: For all the results here, instead of having a hypothesis `u = ∑ i ∈ s, v i`, why not just use `∑ i ∈ s, v i` instead of using `u`?

**Comment by mkaratarakis** [comment]
WIP

**Comment by mkaratarakis** [comment]
-WIP

File: Mathlib/Algebra/Order/BigOperators/Group/Finset.lean [hunk 5]
```diff
@@ -666,6 +666,19 @@ theorem sum_le_one_iff {s : Finset α} {f : α → ℕ} :
       simp [← sum_sdiff (singleton_subset_iff.2 hsx), sum_congr rfl hs, (h x x hsx hsx hfx hfx).2]
     · simp [sum_congr rfl hx]
 
+/-- If `f i ≤ g i` on `s` and the sums agree, then `f i = g i` on `s`. -/
+lemma eq_of_sum_eq_of_le {M : Type*} [AddCommGroup M] [LinearOrder M] [IsOrderedAddMonoid M]
+    {s : Finset ι} {f g : ι → M}
+    (h_le : ∀ i ∈ s, f i ≤ g i) (h_sum_eq : ∑ i ∈ s, f i = ∑ i ∈ s, g i) :
+    ∀ i ∈ s, f i = g i := by
```
Comment (j-loreaux) [inline Mathlib/Algebra/Order/BigOperators/Group/Finset.lean]: We already have this as an iff with much weaker assumptions: [Finset.sum_eq_sum_iff_of_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/BigOperators/Group/Finset.html#Finset.sum_eq_sum_iff_of_le)

File: Mathlib/Analysis/Complex/Norm.lean [hunk 6]
```diff
@@ -387,4 +387,29 @@ lemma normSq_ofReal_sub_I_mul_sqrt_one_sub {x : ℝ} (hx : ‖x‖ ≤ 1) :
   rw [← normSq_neg, neg_sub', sub_neg_eq_add]
   simpa using normSq_ofReal_add_I_mul_sqrt_one_sub (x := -x) (by simpa)
 
+/-- A complex number whose norm equals its real part is its real part, coerced back. -/
+lemma eq_coe_re_of_norm_eq {w : ℂ} (h : ‖w‖ = w.re) : w = ↑(w.re) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Norm.lean]: We already have [RCLike.norm_le_re_iff_eq_norm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/RCLike/Basic.html#RCLike.norm_le_re_iff_eq_norm)

File: Mathlib/Analysis/Complex/Norm.lean [hunk 7]
```diff
@@ -387,4 +387,29 @@ lemma normSq_ofReal_sub_I_mul_sqrt_one_sub {x : ℝ} (hx : ‖x‖ ≤ 1) :
...
+  have h_im : w.im ^ 2 = 0 := by
+    have := sq_norm_sub_sq_im w
+    rw [h, sq] at this
+    linarith
+  exact Complex.ext (by simp) (sq_eq_zero_iff.mp h_im)
+
+lemma eq_coe_re_of_mul_eq_norm_mul {w : ℂ} (h : re (z * star w) = ‖z‖ * ‖w‖) :
+    z * star w = ↑(re (z * star w)) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Norm.lean]: this lemma is *incredibly* niche, and a direct consequence of the previous one.

File: Mathlib/Analysis/Complex/Norm.lean [hunk 8]
```diff
@@ -387,4 +387,29 @@ lemma normSq_ofReal_sub_I_mul_sqrt_one_sub {x : ℝ} (hx : ‖x‖ ≤ 1) :
...
+  have hnorm : ‖z * star w‖ = ‖z‖ * ‖w‖ := by rw [Complex.norm_mul, star_def, norm_conj]
+  exact eq_coe_re_of_norm_eq (hnorm.trans h.symm)
+
+/-- Multiplying `z` by `star z / ‖z‖` yields the norm of `z`. -/
+lemma mul_star_div_norm_eq_norm : z * (star z / (‖z‖ : ℂ)) = (‖z‖ : ℂ) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Norm.lean]: There are far easier proofs of this.

File: Mathlib/Analysis/Complex/TriangleEquality.lean [hunk 9]
```diff
@@ -0,0 +1,74 @@
...
+namespace Complex
+
+open Finset
+
+variable {ι : Type*} {s : Finset ι} {i : ι} {v : ι → ℂ}
+
+/-- If the summands pairwise lie on a common closed ray and one of them is nonzero, then it has
+the same phase as the sum. -/
+lemma aligned_of_pairwise_sameRay (hp : ∀ i ∈ s, ∀ j ∈ s, SameRay ℝ (v i) (v j)) (hi : i ∈ s)
+    (hvi : v i ≠ 0) : v i / (‖v i‖ : ℂ) = (∑ j ∈ s, v j) / (‖∑ j ∈ s, v j‖ : ℂ) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/TriangleEquality.lean]: This whole statement seems wrong to me, not in that it's not true, but rather that it's not the one we would want.

For instance, instead of `SameRay`, you could use: [NormedSpace.normalize](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Module/Normalize.html#NormedSpace.normalize). That's exactly what your `v / (‖v‖ : ℂ))` bit is trying to emulate, but without using any API.

File: Mathlib/Analysis/Complex/TriangleEquality.lean [hunk 10]
```diff
@@ -0,0 +1,74 @@
...
+  aligned_of_sameRay hvi (sum_ne_zero_of_pairwise_sameRay hp hi hvi)
+    (sameRay_sum fun j hj ↦ hp i hi j hj)
+
+/-- **Triangle equality** over `ℂ`: the norm of a finite sum equals the sum of the norms exactly
+when every summand is a nonnegative real multiple of one complex number of norm one. -/
+theorem triangle_equality_iff_aligned :
+    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ ∃ c : ℂ, ‖c‖ = 1 ∧ ∀ i ∈ s, v i = (‖v i‖ : ℂ) * c := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/TriangleEquality.lean]: Again, this could be easily phrased in terms of `NormedSpace.normalize`, but I would make it into two lemmas:

`∀ i, v i ≠ 0 → (‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ ∀ i j, normalize (v i) = normalize (v j))`

(I wanted to use the new `Function.IsConst` above, but we would need `Function.IsConstOn`, and we don't have it.)

and `‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ ∃ c, ∀ i ∈ s, v i = ‖v i‖ * c`.

File: Mathlib/Analysis/Complex/Arg.lean [hunk 11]
```diff
@@ -61,4 +70,39 @@ theorem norm_add_eq (h : x.arg = y.arg) : ‖x + y‖ = ‖x‖ + ‖y‖ :=
...
 
+variable {z w : ℂ} {c : ℝ}
+
+/-- Division by a real scalar agrees with inverse real scalar multiplication. -/
+lemma div_ofReal_eq_inv_smul (r : ℝ) (z : ℂ) : z / (r : ℂ) = r⁻¹ • z := by
+  simp [div_eq_inv_mul, ofReal_inv, real_smul, mul_comm]
+
+/-- `z / ‖z‖` agrees with the real scalar action of `‖z‖⁻¹`. -/
+lemma div_norm_eq_inv_norm_smul : z / (‖z‖ : ℂ) = (‖z‖)⁻¹ • z :=
+  div_ofReal_eq_inv_smul (‖z‖) z
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Arg.lean]: This is just a special case of the previous lemma. I think it's not useful.

File: Mathlib/Analysis/Complex/Arg.lean [hunk 12]
```diff
@@ -61,4 +70,39 @@ theorem norm_add_eq (h : x.arg = y.arg) : ‖x + y‖ = ‖x‖ + ‖y‖ :=
 theorem norm_sub_eq (h : x.arg = y.arg) : ‖x - y‖ = ‖‖x‖ - ‖y‖‖ :=
   (sameRay_of_arg_eq h).norm_sub
 
+variable {z w : ℂ} {c : ℝ}
+
+/-- Division by a real scalar agrees with inverse real scalar multiplication. -/
+lemma div_ofReal_eq_inv_smul (r : ℝ) (z : ℂ) : z / (r : ℂ) = r⁻¹ • z := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Arg.lean]:
```suggestion
lemma div_ofReal (r : ℝ) (z : ℂ) : z / (r : ℂ) = r⁻¹ • z := by
```

File: Mathlib/Analysis/Complex/Arg.lean [hunk 13]
```diff
@@ -61,4 +70,39 @@ theorem norm_add_eq (h : x.arg = y.arg) : ‖x + y‖ = ‖x‖ + ‖y‖ :=
...
+  simp [div_eq_inv_mul, ofReal_inv, real_smul, mul_comm]
+
+/-- `z / ‖z‖` agrees with the real scalar action of `‖z‖⁻¹`. -/
+lemma div_norm_eq_inv_norm_smul : z / (‖z‖ : ℂ) = (‖z‖)⁻¹ • z :=
+  div_ofReal_eq_inv_smul (‖z‖) z
+
+/-- Two nonzero complex numbers lie on the same closed ray iff they have the same phase. -/
+lemma sameRay_iff_aligned (hz : z ≠ 0) (hw : w ≠ 0) :
+    SameRay ℝ z w ↔ z / (‖z‖ : ℂ) = w / (‖w‖ : ℂ) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Arg.lean]: see here you could be using `normalize`.

**Review by j-loreaux — COMMENTED** [review]
There are a lot of issues in this PR. I recommend you go have a solid think about how to rework it. Probably most of the supporting lemmas are not particularly necessary if you use the correct Mathlib API.

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 14]
```diff
@@ -0,0 +1,100 @@
...
+/-- If the summands pairwise lie on a common closed ray, the norm of their sum is the sum of
+their norms. -/
+lemma norm_sum_eq_of_pairwise_sameRay (hp : ∀ i ∈ s, ∀ j ∈ s, SameRay ℝ (v i) (v j)) :
+    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ := by
+  induction s using Finset.cons_induction with
+  | empty => simp
+  | cons a t ha ih =>
+    rw [sum_cons, sum_cons,
+      (sameRay_sum fun j hj ↦ hp a (mem_cons_self ..) j (mem_cons_of_mem hj)).norm_add,
+      ih fun i hi j hj ↦ hp i (mem_cons_of_mem hi) j (mem_cons_of_mem hj)]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]: We're missing these instances:
```lean
variable {R M : Type*} [CommSemiring R] [PartialOrder R] [IsStrictOrderedRing R]
  [AddCommMonoid M] [Module R M]

instance : Std.Refl (SameRay R (M := M)) where
  refl := .refl

instance : Std.Symm (SameRay R (M := M)) where
  symm _ _ := .symm
```
But with them (and an `open scoped Function` at the top of the file), you can change the hypothesis to:

```suggestion
lemma norm_sum_eq_of_pairwise_sameRay (hp : (s : Set ι).Pairwise (SameRay ℝ on v)) :
    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ := by
  induction s using Finset.cons_induction with
  | empty => simp
  | cons a t ha ih =>
    simp only [coe_cons, Set.pairwise_insert_of_symm_of_notMem ha, SetLike.mem_coe] at hp
    rw [sum_cons, sum_cons, (sameRay_sum hp.2).norm_add, ih hp.1]
```
This has the advantage that it gives access to a bunch of API.

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 15]
```diff
@@ -0,0 +1,100 @@
...
+
+omit [NormedSpace ℝ E] [StrictConvexSpace ℝ E] in
+/-- If the norms of a finite family sum to zero, then every member of the family vanishes. -/
+lemma eq_zero_of_sum_norm_eq_zero (h : ∑ j ∈ s, ‖v j‖ = 0) (hi : i ∈ s) : v i = 0 :=
+  norm_eq_zero.1 <| (sum_eq_zero_iff_of_nonneg fun j _ ↦ norm_nonneg (v j)).1 h i hi
+
+omit [StrictConvexSpace ℝ E] in
+/-- A single nonzero summand forces the sum to be nonzero, provided the summands pairwise lie on
+a common closed ray. -/
+lemma sum_ne_zero_of_pairwise_sameRay (hp : ∀ i ∈ s, ∀ j ∈ s, SameRay ℝ (v i) (v j)) (hi : i ∈ s)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]:
```suggestion
lemma sum_ne_zero_of_pairwise_sameRay (hp : (s : Set ι).Pairwise (SameRay ℝ on v)) (hi : i ∈ s)
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 16]
```diff
@@ -0,0 +1,100 @@
...
+    have hp := ih ht
+    have hat : SameRay ℝ (v a) (∑ j ∈ t, v j) := sameRay_iff_norm_add.2 (by rw [h, ht])
+    have key : ∀ j ∈ t, SameRay ℝ (v a) (v j) := fun j hj ↦
+      hat.trans (sameRay_sum fun k hk ↦ hp j hj k hk).symm fun h0 ↦
+        Or.inr (eq_zero_of_sum_norm_eq_zero (by rw [← ht, h0, norm_zero]) hj)
+    rintro i (rfl | hi) j (rfl | hj)
+    · exact SameRay.rfl
+    · exact key j hj
+    · exact (key i hi).symm
+    · exact hp i hi j hj
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]:
```suggestion
    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ (s : Set ι).Pairwise (SameRay ℝ on v) := by
  refine ⟨?_, norm_sum_eq_of_pairwise_sameRay⟩
  induction s using Finset.cons_induction with
  | empty => simp
  | cons a t ha ih =>
    simp only [sum_cons, coe_cons, Set.pairwise_insert_of_symm_of_notMem ha]
    intro h
    have ht : ‖∑ j ∈ t, v j‖ = ∑ j ∈ t, ‖v j‖ :=
      le_antisymm (norm_sum_le _ _) (by linarith [norm_add_le (v a) (∑ j ∈ t, v j)])
    refine ⟨ih ht, ?_⟩
    have hat : SameRay ℝ (v a) (∑ j ∈ t, v j) := sameRay_iff_norm_add.2 (by rw [h, ht])
    exact fun j hj ↦ hat.trans (sameRay_sum fun i hi ↦ (ih ht).forall₂ hj hi).symm
      fun h ↦ Or.inr <| eq_zero_of_sum_norm_eq_zero (by simpa [h] using ht.symm) hj
```

File: Mathlib/Combinatorics/Quiver/Path/Simple.lean
Comment (j-loreaux) [inline Mathlib/Combinatorics/Quiver/Path/Simple.lean:1]: This file seems like it belongs in a different PR.

File: Mathlib/Analysis/Complex/Norm.lean [hunk 17]
```diff
@@ -389,4 +389,8 @@ lemma normSq_ofReal_sub_I_mul_sqrt_one_sub {x : ℝ} (hx : ‖x‖ ≤ 1) :
   rw [← normSq_neg, neg_sub', sub_neg_eq_add]
   simpa using normSq_ofReal_add_I_mul_sqrt_one_sub (x := -x) (by simpa)
 
+lemma mul_star_div_norm_eq_norm : z * (star z / (‖z‖ : ℂ)) = (‖z‖ : ℂ) := by
+  rw [← mul_div_assoc, star_def, mul_conj, normSq_eq_norm_sq, ofReal_pow, pow_two,
+    mul_self_div_self]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/Norm.lean]: still seems like a rather niche lemma, especially with the `_ * (_ / _)` associated that way. I think we should have a standardized way to write this. Even something like `normalize z * star z = ‖z‖` seems like a small improvement.

File: Mathlib/Analysis/Complex/TriangleEquality.lean [hunk 18]
```diff
@@ -0,0 +1,74 @@
...
+
+public section
+
+namespace Complex
+
+open Finset
+
+variable {ι : Type*} {s : Finset ι} {i : ι} {v : ι → ℂ}
+
+lemma normalize_eq_of_pairwise_sameRay (hp : ∀ i ∈ s, ∀ j ∈ s, SameRay ℝ (v i) (v j)) (hi : i ∈ s)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/TriangleEquality.lean]: You can again use `Set.Pairwise` here.

**Comment by j-loreaux** [comment]
You might be able to improve things further by making `sameRay_sum` take a `Set.Pairwise` argument too.

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/Analysis/Complex/TriangleEquality.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/TriangleEquality.lean:1]: I think everything in this file can generalize (with very little effort) to `[NormedAddCommGroup E] [NormedSpace ℝ E] [StrictConvexSpace ℝ E]`. So can live in `Analysis/Convex/TriangleInequality`.

File: Mathlib/Analysis/Complex/TriangleEquality.lean [hunk 19]
```diff
@@ -0,0 +1,77 @@
...
+      ∀ i ∈ s, ∀ j ∈ s, NormedSpace.normalize (v i) = NormedSpace.normalize (v j) := by
+    rw [norm_sum_eq_iff_pairwise_sameRay]
+    exact ⟨fun h i hi j hj ↦ (NormedSpace.sameRay_iff_normalize_eq (hv i hi) (hv j hj)).1
+      (h.forall₂ hi hj),
+    fun h i hi j hj _ ↦ (NormedSpace.sameRay_iff_normalize_eq (hv i hi) (hv j hj)).2 (h i hi j hj)⟩
+
+/-- **Triangle equality** over `ℂ`: the norm of a finite sum equals the sum of the norms exactly
+when every summand is a nonnegative real multiple of a single complex number. -/
+theorem norm_sum_eq_iff_exists_mul :
+    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ ∃ c : ℂ, ∀ i ∈ s, v i = (‖v i‖ : ℂ) * c := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/TriangleEquality.lean]: The only change is 
```suggestion
    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ ∃ c : E, ∀ i ∈ s, v i = ‖v i‖ • c := by
```

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 20]
```diff
@@ -0,0 +1,145 @@
...
+variable {ι : Type*} {s : Finset ι} {i : ι}
+
+variable {R M : Type*} [CommSemiring R] [PartialOrder R] [IsStrictOrderedRing R]
+  [AddCommMonoid M] [Module R M]
+
+instance : Std.Refl (SameRay R (M := M)) where
+  refl := .refl
+
+instance : Std.Symm (SameRay R (M := M)) where
+  symm _ _ := .symm
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]: aren't these already added in the other file?

Comment (mkaratarakis) [reply Mathlib/Analysis/Convex/TriangleEquality.lean]: sure, missed them

File: Mathlib/Analysis/Complex/Arg.lean
Comment (themathqueen) [inline Mathlib/Analysis/Complex/Arg.lean:1]: since this is now unrelated, I'm tempted to ask if you can split it off into another PR

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 21]
```diff
@@ -0,0 +1,136 @@
...
+omit [StrictConvexSpace ℝ E] in
+lemma sum_ne_zero_of_pairwise_sameRay (hp : (s : Set ι).Pairwise (SameRay ℝ on v)) (hi : i ∈ s)
+    (hvi : v i ≠ 0) : ∑ j ∈ s, v j ≠ 0 := fun h0 ↦
+  hvi <| eq_zero_of_sum_norm_eq_zero
+    (by rw [← norm_sum_eq_of_pairwise_sameRay hp , h0, norm_zero] ) hi
+
+/-- **Triangle equality** for a finite sum: the norm of the sum equals the sum of the norms
+exactly when the summands pairwise lie on a common closed ray. -/
+theorem norm_sum_eq_iff_pairwise_sameRay :
+        ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ (s : Set ι).Pairwise (SameRay ℝ on v) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]:
```suggestion
    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ (s : Set ι).Pairwise (SameRay ℝ on v) := by
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 22]
```diff
@@ -0,0 +1,136 @@
...
+  refine ⟨fun h ↦ ⟨NormedSpace.normalize (∑ i ∈ s, v i), fun i hi ↦ ?_⟩, ?_⟩
+  · rcases eq_or_ne (v i) 0 with hv | hv
+    · simp [hv]
+    · rw [← normalize_eq_of_pairwise_sameRay (norm_sum_eq_iff_pairwise_sameRay.1 h) hi hv,
+        NormedSpace.norm_smul_normalize]
+  · rintro ⟨c, hvc⟩
+    rw [norm_sum_eq_iff_pairwise_sameRay]
+    intro i hi j hj _
+    change SameRay ℝ (v i) (v j)
+    rw [hvc i hi, hvc j hj]
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]:
```suggestion
    rw [Function.onFun, hvc i hi, hvc j hj]
```

File: Mathlib/Analysis/Complex/Arg.lean
Comment (mkaratarakis) [reply Mathlib/Analysis/Complex/Arg.lean:1]: ok, sure https://github.com/leanprover-community/mathlib4/pull/43757

Comment (themathqueen) [reply Mathlib/Analysis/Complex/Arg.lean:1]: since it's now in a different PR, can you remove this from this PR?

File: Mathlib/LinearAlgebra/Ray.lean [hunk 23]
```diff
@@ -215,6 +216,20 @@ theorem add_right (hy : SameRay R x y) (hz : SameRay R x z) : SameRay R x (y + z
...
+instance : Std.Symm (SameRay R (M := M)) where
+  symm _ _ := .symm
+
+/-- If the summands pairwise lie on a common ray, then each of them lies on the same ray as
+their sum. This is the `Finset.sum` version of `SameRay.add_right`. -/
+theorem sameRay_sum {ι : Type*} {s : Finset ι} {i : ι} {v : ι → M}
+    (hp : (s : Set ι).Pairwise (SameRay R on v)) (hi : i ∈ s) :
+    SameRay R (v i) (∑ j ∈ s, v j) :=
+  Finset.sum_induction v _ (fun _ _ ↦ SameRay.add_right) (SameRay.zero_right _)
+    fun _ hj ↦ hp.forall₂ hi hj
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Ray.lean:231]: maybe add
```lean
theorem SameRay.sum_left {ι : Type*} {s : Finset ι} {v : ι → M}
    {z : M} (h : ∀ i ∈ s, SameRay R (v i) z) : SameRay R (∑ i ∈ s, v i) z :=
  Finset.sum_induction v (SameRay R · z) (fun _ _ ↦ .add_left) (.zero_left z) h
```
and the right version, and then call this lemma `sameRay_sum_right_of_pairwise` or something like that?

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 24]
```diff
@@ -0,0 +1,135 @@
...
+/-- If the summands pairwise lie on a common closed ray, the norm of their sum is the sum of
+their norms. -/
+lemma norm_sum_eq_of_pairwise_sameRay (hp : (s : Set ι).Pairwise (SameRay ℝ on v)) :
+    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ := by
+  induction s using Finset.cons_induction with
+  | empty => simp
+  | cons a t ha ih =>
+    simp only [coe_cons, Set.pairwise_insert_of_symm_of_notMem ha, SetLike.mem_coe] at hp
+    rw [sum_cons, sum_cons, (sum_induction v _ (fun _ _ ↦ SameRay.add_right)
+      (SameRay.zero_right _) hp.2).norm_add, ih hp.1]
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]: I think you can use the new lemma here?
```suggestion
    rw [sum_cons, sum_cons, (SameRay.sum_right hp.2).norm_add, ih hp.1]
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 25]
```diff
@@ -0,0 +1,135 @@
...
+
+omit [NormedSpace ℝ E] [StrictConvexSpace ℝ E] in
+lemma eq_zero_of_sum_norm_eq_zero (h : ∑ j ∈ s, ‖v j‖ = 0) (hi : i ∈ s) : v i = 0 :=
+  norm_eq_zero.1 <| (sum_eq_zero_iff_of_nonneg fun j _ ↦ norm_nonneg (v j)).1 h i hi
+
+omit [StrictConvexSpace ℝ E] in
+lemma sum_ne_zero_of_pairwise_sameRay (hp : (s : Set ι).Pairwise (SameRay ℝ on v)) (hi : i ∈ s)
+    (hvi : v i ≠ 0) : ∑ j ∈ s, v j ≠ 0 := fun h0 ↦
+  hvi <| eq_zero_of_sum_norm_eq_zero
+    (by rw [← norm_sum_eq_of_pairwise_sameRay hp , h0, norm_zero] ) hi
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]:
```suggestion
    (by rw [← norm_sum_eq_of_pairwise_sameRay hp, h0, norm_zero]) hi
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 26]
```diff
@@ -0,0 +1,134 @@
...
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]: I don't think you need the previous lemma tbh
```suggestion
    (hvi : v i ≠ 0) : ∑ j ∈ s, v j ≠ 0 := by
  rw [← norm_pos_iff, norm_sum_eq_of_pairwise_sameRay hp]
  exact (norm_pos_iff.2 hvi).trans_le (single_le_sum (fun j _ ↦ norm_nonneg (v j)) hi)
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 27]
```diff
@@ -0,0 +1,134 @@
...
+
+end Seminormed
+
+section Normed
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [StrictConvexSpace ℝ E] {v : ι → E}
+
+omit [NormedSpace ℝ E] [StrictConvexSpace ℝ E] in
+lemma eq_zero_of_sum_norm_eq_zero (h : ∑ j ∈ s, ‖v j‖ = 0) (hi : i ∈ s) : v i = 0 :=
+  norm_eq_zero.1 <| (sum_eq_zero_iff_of_nonneg fun j _ ↦ norm_nonneg (v j)).1 h i hi
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean]: if you really want to keep this, it doesn't belong in this file

File: Mathlib/Analysis/Normed/Module/Normalize.lean [hunk 28]
```diff
@@ -72,4 +73,10 @@ theorem normalize_smul (r : ℝ) (x : V) :
   · simp
   · simp [normalize_smul_of_neg, h_neg]
 
+theorem sameRay_iff_normalize_eq {x y : V} (hx : x ≠ 0) (hy : y ≠ 0) :
+    SameRay ℝ x y ↔ normalize x = normalize y :=
+  sameRay_iff_inv_norm_smul_eq_of_ne hx hy
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Normalize.lean]: how about calling this lemma `sameRay_iff_normalize_eq_of_ne`
and then having another lemma `sameRay_iff_normalize_eq` without the hypotheses?
(to match `sameRay_iff_inv_norm_smul_eq_of_ne` and `sameRay_iff_inv_norm_smul_eq`)

**Comment by themathqueen** [comment]
Sorry, this keeps falling off my radar. I'll finish my review on this tonight or tomorrow! I don't think there's much left anyway, I just want to see if I can golf this one proof, and then it's good to go.

File: Mathlib/LinearAlgebra/Ray.lean [hunk 29]
```diff
@@ -215,6 +216,28 @@ theorem add_right (hy : SameRay R x y) (hz : SameRay R x z) : SameRay R x (y + z
 
 end SameRay
 
+instance : Std.Refl (SameRay R (M := M)) where
+  refl := .refl
+
+instance : Std.Symm (SameRay R (M := M)) where
+  symm _ _ := .symm
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Ray.lean:223]: can you move these instances into the namespace above?

File: Mathlib/LinearAlgebra/Ray.lean [hunk 30]
```diff
@@ -215,6 +216,28 @@ theorem add_right (hy : SameRay R x y) (hz : SameRay R x z) : SameRay R x (y + z
...
+  Finset.sum_induction v _ (fun _ _ ↦ SameRay.add_right) (SameRay.zero_right _)
+    fun _ hj ↦ hp.forall₂ hi hj
+
+theorem SameRay.sum_left {ι : Type*} {s : Finset ι} {v : ι → M}
+    {z : M} (h : ∀ i ∈ s, SameRay R (v i) z) : SameRay R (∑ i ∈ s, v i) z :=
+  Finset.sum_induction v (SameRay R · z) (fun _ _ ↦ .add_left) (.zero_left z) h
+
+theorem SameRay.sum_right {ι : Type*} {s : Finset ι} {v : ι → M}
+    {x : M} (h : ∀ i ∈ s, SameRay R x (v i)) : SameRay R x (∑ i ∈ s, v i) :=
+  Finset.sum_induction v (SameRay R x ·) (fun _ _ ↦ .add_right) (.zero_right x) h
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Ray.lean:239]: can you also move these into the namespace?

Comment (themathqueen) [inline Mathlib/LinearAlgebra/Ray.lean:239]: an alternate proof:

```suggestion
  (sum_left fun _ hi ↦ (h _ hi).symm).symm
```

File: Mathlib/LinearAlgebra/Ray.lean [hunk 31]
```diff
@@ -215,6 +216,28 @@ theorem add_right (hy : SameRay R x y) (hz : SameRay R x z) : SameRay R x (y + z
...
+instance : Std.Symm (SameRay R (M := M)) where
+  symm _ _ := .symm
+
+/-- If the summands pairwise lie on a common ray, then each of them lies on the same ray as
+their sum. This is the `Finset.sum` version of `SameRay.add_right`. -/
+theorem sameRay_sum_right_of_pairwise {ι : Type*} {s : Finset ι} {i : ι} {v : ι → M}
+    (hp : (s : Set ι).Pairwise (SameRay R on v)) (hi : i ∈ s) :
+    SameRay R (v i) (∑ j ∈ s, v j) :=
+  Finset.sum_induction v _ (fun _ _ ↦ SameRay.add_right) (SameRay.zero_right _)
+    fun _ hj ↦ hp.forall₂ hi hj
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Ray.lean:231]: and when you move the other two lemmas above this one, the proof of this can be

```suggestion
  SameRay.sum_right fun _ hj ↦ hp.forall₂ hi hj
```
instead of repeating the same proof 3 times

File: Mathlib/Analysis/Normed/Module/Normalize.lean [hunk 32]
```diff
@@ -72,4 +73,14 @@ theorem normalize_smul (r : ℝ) (x : V) :
...
+theorem sameRay_iff_normalize_eq_of_ne {x y : V} (hx : x ≠ 0) (hy : y ≠ 0) :
+    SameRay ℝ x y ↔ normalize x = normalize y :=
+  sameRay_iff_inv_norm_smul_eq_of_ne hx hy
+
+alias ⟨_root_.SameRay.normalize_eq, _⟩ := sameRay_iff_normalize_eq_of_ne
+
+theorem sameRay_iff_normalize_eq {x y : V} :
+    SameRay ℝ x y ↔ x = 0 ∨ y = 0 ∨ normalize x = normalize y :=
+  sameRay_iff_inv_norm_smul_eq
+
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/Normalize.lean:85]: can you add

```suggestion
lemma sameRay_of_normalize_eq {x y : V} (h : normalize x = normalize y) : SameRay ℝ x y :=
  sameRay_iff_normalize_eq.mpr (.inr (.inr h))
```
or you can call it `SameRay.of_normalize_eq` maybe

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 33]
```diff
@@ -0,0 +1,131 @@
...
+  | empty => simp
+  | cons a t ha ih =>
+    simp only [sum_cons, coe_cons, Set.pairwise_insert_of_symm_of_notMem ha]
+    intro h
+    have ht : ‖∑ j ∈ t, v j‖ = ∑ j ∈ t, ‖v j‖ :=
+      le_antisymm (norm_sum_le _ _) (by linarith [norm_add_le (v a) (∑ j ∈ t, v j)])
+    refine ⟨ih ht, ?_⟩
+    have hat : SameRay ℝ (v a) (∑ j ∈ t, v j) := sameRay_iff_norm_add.2 (by rw [h, ht])
+    exact fun j hj ↦ hat.trans (sameRay_sum_right_of_pairwise (ih ht) hj).symm fun h0 ↦
+      Or.inr <| not_imp_not.1 (sum_ne_zero_of_pairwise_sameRay (ih ht) hj) h0
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean:95]:
```suggestion
  refine ⟨fun h i hi j hj hij ↦ ?_, norm_sum_eq_of_pairwise_sameRay⟩
  classical
  have : {i, j} ⊆ s := by grind
  rw [← sum_sdiff this, ← sum_sdiff this, sum_pair hij, sum_pair hij] at h
  grind [sameRay_iff_norm_add, norm_sum_le, norm_add_le]
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 34]
```diff
@@ -0,0 +1,131 @@
...
+/-- **Triangle equality** for nonzero summands: the norm of the sum equals the sum of the norms
+exactly when all the summands have the same normalization. -/
+theorem norm_sum_eq_iff_pairwise_normalize_eq (hv : ∀ i ∈ s, v i ≠ 0) :
+    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔
+      ∀ i ∈ s, ∀ j ∈ s, NormedSpace.normalize (v i) = NormedSpace.normalize (v j) := by
+  rw [norm_sum_eq_iff_pairwise_sameRay]
+  exact ⟨fun h i hi j hj ↦
+      (NormedSpace.sameRay_iff_normalize_eq_of_ne (hv i hi) (hv j hj)).1 (h.forall₂ hi hj),
+    fun h i hi j hj _ ↦
+      (NormedSpace.sameRay_iff_normalize_eq_of_ne (hv i hi) (hv j hj)).2 (h i hi j hj)⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean:114]:
```suggestion
  simp +contextual only [norm_sum_eq_iff_pairwise_sameRay,
    ← NormedSpace.sameRay_iff_normalize_eq_of_ne (hv _ _) (hv _ _)]
  exact ⟨fun h i hi j hj ↦ h.forall₂ hi hj, fun h i hi j hj hij ↦ h _ hi _ hj⟩
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 35]
```diff
@@ -0,0 +1,131 @@
...
+theorem norm_sum_eq_iff_exists_smul :
+    ‖∑ i ∈ s, v i‖ = ∑ i ∈ s, ‖v i‖ ↔ ∃ c : E, ∀ i ∈ s, v i = ‖v i‖ • c := by
+  refine ⟨fun h ↦ ⟨NormedSpace.normalize (∑ i ∈ s, v i), fun i hi ↦ ?_⟩, ?_⟩
+  · rcases eq_or_ne (v i) 0 with hv | hv
+    · simp [hv]
+    · rw [← normalize_eq_of_pairwise_sameRay (norm_sum_eq_iff_pairwise_sameRay.1 h) hi hv,
+        NormedSpace.norm_smul_normalize]
+  · rintro ⟨c, hvc⟩
+    rw [norm_sum_eq_iff_pairwise_sameRay]
+    intro i hi j hj _
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean:127]:
```suggestion
  rw [norm_sum_eq_iff_pairwise_sameRay]
  refine ⟨fun h ↦ ⟨NormedSpace.normalize (∑ i ∈ s, v i), fun i hi ↦ ?_⟩, ?_⟩
  · rcases eq_or_ne (v i) 0 with hv | hv
    · simp [hv]
    · rw [← normalize_eq_of_pairwise_sameRay h hi hv, NormedSpace.norm_smul_normalize]
  · rintro ⟨c, hvc⟩ i hi j hj _
```

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 36]
```diff
@@ -0,0 +1,131 @@
...
+  the summands have the same normalization.
+* `norm_sum_eq_iff_exists_smul`: triangle equality holds iff every summand is a nonnegative real
+  multiple of a single vector.
+
+## Implementation notes
+
+The results are proved by induction on the `Finset`, applying `sameRay_iff_norm_add` to the two
+vectors `v a` and `∑ j ∈ t, v j` at each step, so no inner-product structure is involved. Each is
+stated with the weakest structure it needs, which is why the forcing direction is separated from
+the iff: only it can fail without strict convexity.
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean:39]: I don't know if you really need this

File: Mathlib/Analysis/Convex/TriangleEquality.lean [hunk 37]
```diff
@@ -0,0 +1,131 @@
...
+module
+
+public import Mathlib.Analysis.Convex.StrictConvexSpace
+public import Mathlib.Analysis.Normed.Module.Normalize
+
+/-!
+# Triangle equality for finite sums
+
+The triangle inequality `‖∑ i ∈ s, v i‖ ≤ ∑ i ∈ s, ‖v i‖` is an equality exactly when the
+summands pairwise lie on a common closed ray. This extends `sameRay_iff_norm_add`, the two-vector
```
Comment (themathqueen) [inline Mathlib/Analysis/Convex/TriangleEquality.lean:15]:
```suggestion
summands pairwise lie on a common closed ray (`SameRay`). This extends `sameRay_iff_norm_add`, the two-vector
```

**Comment by mkaratarakis** [comment]
-awaiting-author
